US04304642
A mixture of dibenzyldisulphide (500 mg; 2.03 mmoles) and cyclohexane (1.6 g, 19.8 mmoles) were dissolved in acetonitrile (0.1 m in tetra-n-butyl-ammonium fluoroborate). Water (37 mg, 2.03 mmoles; a 1:1 ratio with the disulphide) was added and the solution electrolysed in the anode compartment of the preparative cell of Example 1 at +1.60 V (vs Ag/0.01 MAg+) until 2.8 coulomb equivalents of charge had been passed. The anolyte was poured into water (100 ml) and extracted with diethyl ether. The ether extract was washed with water, dried with magnesium sulphate and evaporated to give a crude product mixture which was then purified by preparative thin layer chromatography (SiO2, eluted with diethyl ether and 5% acetone) to give 2-acetamido-1-benzylthio-cyclohexane. Mass Spec. m/e P+ 263, 91(100%). IR 3300 and 1650 cm-1.

reactant | dibenzyldisulphide | 2.03 mmoles, 500 mg | C(C1=CC=CC=C1)SSCC1=CC=CC=C1 | C14H14S2
reactant | cyclohexane | 19.8 mmoles, 1.6 g | C1CCCCC1 | C6H12
reactant | Water | O | H2O
reactant | water | 100 ml | O | H2O
reactant | acetonitrile | C(C)#N | C2H3N
product | 2-acetamido-1-benzylthio-cyclohexane | C(C)(=O)NC1C(CCCC1)SCC1=CC=CC=C1 | C15H21NOS
